US07109226B2
Synthesis of 2-Hydroxyphenylacetamide
2-Methoxyphenyl acetamide (13.0 g, 78.6 mmol) was dissolved in methylene chloride (10.0 mL). Subsequently, 1.0M boron tribromide in methylene chloride solution (157 mL, 157 mmol) was slowly added dropwise under ice-cooling, and the mixture was stirred for one hour at room temperature. Subsequently, water was slowly added thereto under ice-cooling, and the mixture was stirred for 30 minutes. The mixture was extracted with chloroform, followed by washing the organic layer with brine, drying over anhydrous sodium sulfate. The reaction mixture was subjected to concentration under reduced pressure and purification by column chromatography (n-hexane/ethyl acetate=20/1), whereby a white solid was obtained (1.8 g, 11.9 mmol, 15%).

reactant | 2-Methoxyphenyl acetamide | 78.6 mmol, 13.0 g | COC1=C(C=CC=C1)CC(=O)N | C9H11NO2
reactant | boron tribromide | 1.0M | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | 10.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 157 mmol, 157 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxyphenylacetamide | OC1=C(C=CC=C1)CC(=O)N | C8H9NO2
